US04734419
A mixture of ethyl 2-[3-(3,4-dichlorobenzyl)-1,2,3,4-tetrahydro-2,4-dithioxoquinazolin-1-yl]acetate (85 mg), 1N aqueous sodium hydroxide (0.5 ml) and tetrahydrofuran (1 ml) was stirred at room temperature for 20 hours. The reaction mixture was poured into a mixture of ethyl acetate and 0.5N hydrochloric acid. The organic layer was separated, washed with water and brine, and dried over magnesium sulfate. The solvent was removed and the residue was crystallized from chloroform to give 2-[3-(3,4-dichlorobenzyl)-1,2,3,4-tetrahydro-2,4-dithioxoquinazolin-1-yl]acetic acid (36 mg).

reactant | ethyl 2-[3-(3,4-dichlorobenzyl)-1,2,3,4-tetrahydro-2,4-dithioxoquinazolin-1-yl]acetate | 85 mg | ClC=1C=C(CN2C(N(C3=CC=CC=C3C2=S)CC(=O)OCC)=S)C=CC1Cl | C19H16Cl2N2O2S2
reactant | sodium hydroxide | 1N, 0.5 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 0.5N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[3-(3,4-dichlorobenzyl)-1,2,3,4-tetrahydro-2,4-dithioxoquinazolin-1-yl]acetic acid | 36 mg | ClC=1C=C(CN2C(N(C3=CC=CC=C3C2=S)CC(=O)O)=S)C=CC1Cl | C17H12Cl2N2O2S2
